US07511033B2
4-(3-Bromo-phenyl)-7-isobutylamino-8-trifluoromethyl-1,3-dihydro-benzo[b][1,4]diazepin-2-one
) The title compound was prepared from the above described {2-[3-(3-bromo-phenyl)-3-oxo-propionylamino]-5-isobutylamino-4-trifluoromethyl-phenyl}-carbamic acid tert-butyl ester (1.03 g, 1.8 mmol) and TFA (7 mL) in DCM (20 mL) according to general procedure I step 2. Obtained as a light yellow solid (0.75 g, 92%). MS (ISP) 454.3 [(M+H)+]; mp 217° C. (dec).

reactant | {2-[3-(3-bromo-phenyl)-3-oxo-propionylamino]-5-isobutylamino-4-trifluoromethyl-phenyl}-carbamic acid tert-butyl ester | 1.8 mmol, 1.03 g | C(C)(C)(C)OC(NC1=C(C=C(C(=C1)NCC(C)C)C(F)(F)F)NC(CC(=O)C1=CC(=CC=C1)Br)=O)=O | C25H29BrF3N3O4
reactant | TFA | 7 mL | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | DCM | 20 mL | C(Cl)Cl | CH2Cl2
product | 4-(3-Bromo-phenyl)-7-isobutylamino-8-trifluoromethyl-1,3-dihydro-benzo[b][1,4]diazepin-2-one | BrC=1C=C(C=CC1)C1=NC2=C(NC(C1)=O)C=C(C(=C2)NCC(C)C)C(F)(F)F | C20H19BrF3N3O
